US09315494B2
To a cooled (0° C.) solution of 2-nitroaniline (1 g, 7.25 mmol) in dimethylformamide (DMF, 10 mL) was added sodium hydride (608 mg, 25 mmol). After addition was complete methanesulfonyl chloride (1.69 mL, 21.8 mmol) was added and the reaction was warmed to room temperature and stirred for 1 hour. The reaction was then diluted with water and the product extracted with ethyl acetate. The organic layer was concentrated and purified by chromatography to provide N-(methylsulfonyl)-N-(2-nitrophenyl)methanesulfonamide (1.5 g, 70% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.17 (s, 1H), 7.89 (m, 1H), 7.80 (m, 2H), 3.58 (s, 6H).

reactant | 2-nitroaniline | 7.25 mmol, 1 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | sodium hydride | 25 mmol, 608 mg | [H-].[Na+]
reactant | methanesulfonyl chloride | 21.8 mmol, 1.69 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(methylsulfonyl)-N-(2-nitrophenyl)methanesulfonamide | 1.5 g, 70% yield | CS(=O)(=O)N(S(=O)(=O)C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O6S2
